US04543352
Step 2. 5-Methoxy-1-pyrrolidinyl-naphthalene
1,4-Dibromobutane (220 g) is added dropwise to a stirred suspension of 1-amino-5-methoxynaphthalene (170 g) and sodium carbonate (200 g) in THF (300 ml), while maintaining the reaction temperature at less than 10° C. When the addition is complete, the stirred mixture is allowed to reach RT and refluxed overnight.

reactant | 1,4-Dibromobutane | 220 g | BrCCCCBr | C4H8Br2
reactant | 1-amino-5-methoxynaphthalene | 170 g | NC1=CC=CC2=C(C=CC=C12)OC | C11H11NO
reactant | sodium carbonate | 200 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 5-Methoxy-1-pyrrolidinyl-naphthalene | COC1=C2C=CC=C(C2=CC=C1)N1CCCC1 | C15H17NO
